US09255101B2
To a solution of 2-phenylethanol (24.4 g, 0.2 mole) in CH2Cl2 (200 mL) is added NEt3 (30.7 mL, 0.22 mole). The reaction mixture is cooled to 0° C. and methanesulfonyl chloride (16.3 mL, 0.21 mole) is added dropwise. The reaction mixture is allowed to reach room temperature and is stirred at room temperature overnight. Solvent is removed under reduced pressure. Water is added and the aqueous phase is extracted three times with Et2O. The organic phase is washed with water, brine, dried over magnesium sulphate, filtered and the solvent is removed under reduced pressure to give methanesulfonic acid phenethyl ester.

reactant | 2-phenylethanol | 0.2 mole, 24.4 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | NEt3 | 0.22 mole, 30.7 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.21 mole, 16.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid phenethyl ester | C(CC1=CC=CC=C1)OS(=O)(=O)C | C9H12O3S
